### PR TITLE
[Merged by Bors] - feat: port CategoryTheory.Limits.Shapes.WidePullbacks

### PR DESCRIPTION
**Pull request by mattrobball**
---

 - [x] depends on : #2368 

 Should have squashed...
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/WidePullbacks.lean [hunk 1]
```diff
@@ -268,72 +309,77 @@ noncomputable abbrev widePushout (B : C) (objs : J → C) (arrows : ∀ j : J, B
...
   limit.π (WidePullbackShape.wideCospan _ _ _) Option.none
+set_option align.precheck false in
 #align category_theory.limits.wide_pullback.base CategoryTheory.Limits.widePullback.base
 
-@[simp, reassoc.1]
+@[reassoc (attr := simp)]
 theorem π_arrow (j : J) : π arrows j ≫ arrows _ = base arrows := by
-  apply limit.w (wide_pullback_shape.wide_cospan _ _ _) (wide_pullback_shape.hom.term j)
+  apply limit.w (WidePullbackShape.wideCospan _ _ _) (WidePullbackShape.Hom.term j)
+set_option align.precheck false in -- Porting note: it is in the context what is going on?
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/WidePullbacks.lean:335]: I'm not sure what is meant with this porting note.
Also, I see that a lot of these `set_option`s are tagged with a `Porting note: again`, but not all of them.

Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/Shapes/WidePullbacks.lean]: I missed a lower case w. They are all gone now

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
